US05442060
In the same manner as in Example 1, 0.86 g (3.25 mmol) of (R)-3-(2, 3-methylenedioxyphenyl) octanoic acid was converted into its acid chloride. This acid chloride was dissolved in 5 ml of methylene chloride and added dropwise to a solution of 571 mg (3.88 mmol) of 2, 4, 6-trifluoroaniline and 0.54 ml (3.9 mmol) of triethylamine in 15 ml of methylene chloride. The reaction mixture was stirred overnight, washed with water, dried over anhydrous magnesium sulfate and the solvent evaporated. The residue was chromatographed on a silica gel column, eluting with ethyl acetate/hexane (1/5) and recrystallized from a mixed solvent of hexane and a trace of ethyl acetate to give 1.11 g of (R)-N-(2, 4, 6-trifluorophenyl)-3-(2, 3-methylenedioxyphenyl) octanamide as white crystals. Yield, 87%.

reactant | (R)-3-(2, 3-methylenedioxyphenyl) octanoic acid | 3.25 mmol, 0.86 g | C1OC2=C(C=CC=C2O1)[C@@H](CC(=O)O)CCCCC | C15H20O4
reactant | 2, 4, 6-trifluoroaniline | 3.88 mmol, 571 mg | FC1=C(N)C(=CC(=C1)F)F | C6H4F3N
reactant | triethylamine | 3.9 mmol, 0.54 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | (R)-N-(2, 4, 6-trifluorophenyl)-3-(2, 3-methylenedioxyphenyl) octanamide | 1.11 g | FC1=C(C(=CC(=C1)F)F)NC(C[C@@H](CCCCC)C1=C2C(=CC=C1)OCO2)=O | C21H22F3NO3
